US09169254B2
10% Rh—C (14.7 mg) was added to a solution of 4-(3,3,3-trifluoro-propoxy)-benzoic acid benzyl ester (147.3 mg, 0.454 mmol) in iPrOH (1.5 mL). The hydrogen pressure was adjusted to 5 atm, and the mixture was then heated with stirring at 80° C. overnight. The reaction mixture was filtered through celite, and the filtrate was then diluted with ethyl acetate. A saturated aqueous sodium bicarbonate solution was added, and the organic layer and the aqueous layer were separated. The aqueous layer was adjusted to pH 1 with 1 N hydrochloric acid and then extracted with ethyl acetate. The organic layers were sequentially washed with water and saturated brine, and then dried over anhydrous Na2SO4 and concentrated under reduced pressure to give 4-(3,3,3-trifluoro-propoxy)-cyclohexanecarboxylic acid as a colorless transparent oily substance (70.2 mg, 64%).

reactant | 4-(3,3,3-trifluoro-propoxy)-benzoic acid benzyl ester | 0.454 mmol, 147.3 mg | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)OCCC(F)(F)F)=O | C17H15F3O3
reactant | hydrogen | [H][H] | H2
solvent | iPrOH | 1.5 mL | CC(C)O | C3H8O
product | 4-(3,3,3-trifluoro-propoxy)-cyclohexanecarboxylic acid | FC(CCOC1CCC(CC1)C(=O)O)(F)F | C10H15F3O3
